US07897762B2
Diphosgene (2.4 mL, 19 mmol), 5-((2-chloro-4-fluoro-5-nitrophenylamino)methyl)-N4-ethyl-N2-methoxy-N2-methylpyridine-2,4-diamine (6 g, 16 mmol) and Et3N (4.6 mL, 32 mmol) were combined by the procedure of Example A4 step 3 to provide 1-ethyl-3-(4-fluoro-2-methyl-5-nitro-phenyl)-7-(methoxy(methyl)amino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (4.5 g, 70% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.27 (d, J=8 Hz, 1 H), 7.94 (s, 1 H), 7.58 (d, J=12 Hz, 1 H), 6.58 (s, 1 H), 4.89 (d, J=16 Hz, 1 H), 4.48 (d, J=16 Hz, 1 H), 3.84-3.92 (m, 2H), 3.73 (s, 3 H), 3.16 (s, 3 H), 2.20 (s, 1 H), 1.19 (t, J=8 Hz, 3 H); MS (ESI) m/z: 390.2 [M+H]+.

reactant | Diphosgene | 19 mmol, 2.4 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 5-((2-chloro-4-fluoro-5-nitrophenylamino)methyl)-N4-ethyl-N2-methoxy-N2-methylpyridine-2,4-diamine | 16 mmol, 6 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])NCC=1C(=CC(=NC1)N(C)OC)NCC | C16H19ClFN5O3
reactant | Et3N | 32 mmol, 4.6 mL | CCN(CC)CC | C6H15N
product | 1-ethyl-3-(4-fluoro-2-methyl-5-nitro-phenyl)-7-(methoxy(methyl)amino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 4.5 g, 70% yield | C(C)N1C(N(CC2=C1C=C(N=C2)N(C)OC)C2=C(C=C(C(=C2)[N+](=O)[O-])F)C)=O | C18H20FN5O4
